### PR TITLE
[Merged by Bors] - feat(Analysis/RCLike): lifting `C(X, ℝ)` to `C(X, 𝕜)`

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+
+@[expose] public section
+
+namespace ContinuousMap
+variable {X : Type*} (𝕜 : Type*) [TopologicalSpace X] [RCLike 𝕜]
+
+/-- Lifting `C(X, ℝ)` to `C(X, 𝕜)` using `RCLike.ofReal`. -/
+@[simps] def realToRCLike (f : C(X, ℝ)) : C(X, 𝕜) where toFun x := RCLike.ofReal (f x)
+
+@[simp] lemma isSelfAdjoint_realToRCLike {f : C(X, ℝ)} : IsSelfAdjoint (f.realToRCLike 𝕜) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/ContinuousMap.lean]:
```suggestion
@[simp, grind .]
lemma isSelfAdjoint_realToRCLike {f : C(X, ℝ)} :
    IsSelfAdjoint (f.realToRCLike 𝕜) := by
```

File: Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+  ext; simp
+
+@[simp] lemma spectrum_realToRCLike (f : C(X, ℝ)) :
+    spectrum ℝ (f.realToRCLike 𝕜) = spectrum ℝ f := by
+  ext; simp [spectrum.mem_iff, isUnit_iff_forall_isUnit, RCLike.ext_iff (K := 𝕜), Algebra.smul_def]
+
+variable (X) in
+open ComplexOrder in
+lemma monotone_realToRCLike : Monotone (realToRCLike (X := X) 𝕜) :=
+  fun f g hfg x ↦ by simpa using hfg x
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/ContinuousMap.lean]: Can you upgrade this to an `OrderEmbedding` (which is data-carrying)? From there we can get all the basic things we want. I needed an order embedding version in LeanOA downstream.

File: Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+
+variable {𝕜} in
+/-- Mapping `C(X, 𝕜)` to `C(X, ℝ)` using `RCLike.re`. -/
+@[simps] def rclikeToReal (f : C(X, 𝕜)) : C(X, ℝ) where toFun x := RCLike.re (f x)
+
+@[simp] theorem rclikeToReal_realToRCLike (f : C(X, ℝ)) :
+    (f.realToRCLike 𝕜).rclikeToReal = f := by ext; simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/ContinuousMap.lean:102]: You have very little API for this direction, maybe add monotonicity and continuity lemmas for it at least?

File: Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+    .range (realToRCLike 𝕜) = {f : C(X, 𝕜) | IsSelfAdjoint f} :=
+  le_antisymm (fun _ ⟨_, h⟩ ↦ by simp [← h]) fun f hf ↦
+    ⟨f.rclikeToReal, hf.realToRCLike_rclikeToReal⟩
+
+variable (X) in
+@[simp] theorem isometry_realToRCLike [CompactSpace X] : Isometry (realToRCLike 𝕜 (X := X)) :=
+  .of_dist_eq fun f g ↦ by simp [dist_eq_norm, norm_eq_iSup_norm, ← map_sub]
+
+variable (X) in
+@[simp] lemma continuous_realToRCLike [CompactSpace X] : Continuous (realToRCLike 𝕜 (X := X)) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/ContinuousMap.lean]:
```suggestion
@[simp, fun_prop]
lemma continuous_realToRCLike [CompactSpace X] : Continuous (realToRCLike 𝕜 (X := X)) :=
```

File: Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+
+variable {𝕜} in
+/-- Mapping `C(X, 𝕜)` to `C(X, ℝ)` using `RCLike.re`. -/
+@[simps] def rclikeToReal (f : C(X, 𝕜)) : C(X, ℝ) where toFun x := RCLike.re (f x)
+
+@[simp] theorem rclikeToReal_realToRCLike (f : C(X, ℝ)) :
+    (f.realToRCLike 𝕜).rclikeToReal = f := by ext; simp
+
+variable {𝕜} in
+theorem IsSelfAdjoint.realToRCLike_rclikeToReal {f : C(X, 𝕜)} (hf : IsSelfAdjoint f) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/ContinuousMap.lean:106]:
```suggestion
@[aesop safe apply, grind =]
theorem IsSelfAdjoint.realToRCLike_rclikeToReal {f : C(X, 𝕜)} (hf : IsSelfAdjoint f) :
```

**Review by j-loreaux — COMMENTED** [review]
It would be nice also for the `realToRCLike` direction to link it to the the bundled maps `C(X, ℝ) → C(X, 𝕜)` which are star algebra homomorphisms via [ContinuousMap.compStarAlgHom'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousMap/Star.html#ContinuousMap.compStarAlgHom%27)

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 6]
```diff
@@ -1108,14 +1108,23 @@ instance (priority := 100) : ContinuousStar K :=
...
 
 @[simp, rclike_simps]
 theorem ofRealAm_coe : (ofRealAm : ℝ → K) = ofReal :=
   rfl
 
+variable (K) in
+/-- The `ℝ → K` coercion, as a ⋆-algebra map. -/
+noncomputable def ofRealStarAlgHom : ℝ →⋆ₐ[ℝ] K where
+  __ := ofRealAm
+  map_star' _ := RCLike.conj_ofReal _ |>.symm
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean]:
```suggestion
noncomputable def ofRealStarAlgHom : ℝ →⋆ₐ[ℝ] K := .ofId ℝ K
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 7]
```diff
@@ -1108,14 +1108,21 @@ instance (priority := 100) : ContinuousStar K :=
...
 
 @[simp, rclike_simps]
 theorem ofRealAm_coe : (ofRealAm : ℝ → K) = ofReal :=
   rfl
 
+variable (K) in
+/-- The `ℝ → K` coercion, as a ⋆-algebra map. -/
+noncomputable def ofRealStarAlgHom : ℝ →⋆ₐ[ℝ] K := .ofId ℝ K
+
+@[simp] theorem ofRealStarAlgHom_coe : (ofRealStarAlgHom K : ℝ → K) = ofReal := rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/RCLike/Basic.lean]:
```suggestion
@[simp] theorem coe_ofRealStarAlgHom : (ofRealStarAlgHom K : ℝ → K) = ofReal := rfl
```
